US09255094B2
Preparation of 1-(6-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol (Compound No. 1-10)
A flask was charged with 6-chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 4.5 mmol) in DMF (10 mL) and stirred for 5 min. To this was added NaH (60% in hexane) (220 mg, 6.8 mmol) and stirred at RT for 10 min, followed by 4-(2-methyloxiran-2-yl)pyridine (1.08 g, 9 mmol) and stirred at RT for 16 h. The progress of reaction was monitored by TLC. The mixture was poured into ice water and filtered. The filtrate was washed with water and concentrated. The residue was recrystallized from ether to get pure product. 1HNMR (DMSO, HCl salt) d (ppm): 8.70 (d, 2H), 7.90 (d, 2H), 7.40 (m, 1H), 7.0 (m, 2H), 6.0 (m, 1H), 4.80 (m, 1H), 4.60 (m, 2H), 4.25 (m, 2H), 3.80 (m, 2H), 2.90 (s, 3H), 1.60 (s, 3H).

reactant | 6-chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 4.5 mmol, 1.0 g | ClC1=CC=CC=2C3=C(NC12)CCN(C3)C | C12H13ClN2
reactant | NaH | 6.8 mmol, 220 mg | [H-].[Na+]
reactant | 4-(2-methyloxiran-2-yl)pyridine | 9 mmol, 1.08 g | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(6-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol | ClC1=CC=CC=2C3=C(N(C12)CC(C)(O)C1=CC=NC=C1)CCN(C3)C | C20H22ClN3O
